US06583157B2
2-Chloro-N-(3-chloro-4-hydroxy-phenyl)-4-trifluoromethyl-benzenesulfonamide was synthesized (92%) from 4-amino-2-chlorophenol (Aldrich) and 2-chloro-4-trifluoromethylbenzenesulfonyl chloride in a similar manner as described in Example 421.

reactant | 4-amino-2-chlorophenol | NC1=CC(=C(C=C1)O)Cl | C6H6ClNO
reactant | 2-chloro-4-trifluoromethylbenzenesulfonyl chloride | ClC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3Cl2F3O2S
product | 2-Chloro-N-(3-chloro-4-hydroxy-phenyl)-4-trifluoromethyl-benzenesulfonamide | ClC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)NC1=CC(=C(C=C1)O)Cl | C13H8Cl2F3NO3S
